US06743785B2
3,4-Dihydro-2H-benzo[1,4]Thiazine.
A solution of (2H)1,4-benzothiazin-3(4H)-one (20.0 g, 121.1 mmol) in anhydrous tetrahydrofuran (100 mL) was added to a stirred suspension of lithium aluminum hydride in anhydrous tetrahydrofuran (80 mL) under nitrogen at 0° C. The mixture was heated at reflux for 2 hrs and then poured into a mixture of ethyl acetate (300 mL) and ice (500 g). The organic layer was separated and the aqueous layer extracted with ethyl acetate. The combined organic layer was dried and concentrated under reduced pressure to provide 17.68 g (96.5%) of the desired compound which was used without further purification.

reactant | (2H)1,4-benzothiazin-3(4H)-one | 121.1 mmol, 20.0 g | S1CC(NC2=C1C=CC=C2)=O | C8H7NOS
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 3,4-Dihydro-2H-benzo[1,4]Thiazine | 17.68 g, 96.5% | S1CCNC2=C1C=CC=C2 | C8H9NS
